US04910341
Preparation of 1-(β-aminoethyl)amino-2-nitro-4-[(β-hydroxyethyl)amino]benzene
0.4 mole (10.64 g) of N-[4-(β-aminoethyl)amino-3-nitrophenyl]oxazolidone, prepared according to Example 10, is added to 27 ml of 3N sodium hydroxide and 11 ml of 96° strength ethanol. After being heated for 45 minutes at 95° C., the solution is poured onto ice, and the precipitate obtained is drained and then washed with iced water. After being dried under vacuum, 0.036 mole (8.7 g) of the expected product is obtained. It melts at 112° C.

reactant | N-[4-(β-aminoethyl)amino-3-nitrophenyl]oxazolidone | 0.4 mole, 10.64 g | NCCNC1=C(C=C(C=C1)N1[CH-]OCC1=O)[N+](=O)[O-]
reactant | sodium hydroxide | 3N, 27 ml | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(β-aminoethyl)amino-2-nitro-4-[(β-hydroxyethyl)amino]benzene | 0.036 mole, 8.7 g | NCCNC1=C(C=C(C=C1)NCCO)[N+](=O)[O-] | C10H16N4O3
